* Schematics Netlist *



R_R1         $N_0002 $N_0001  6  
R_R2         $N_0003 $N_0001  2  
R_R5         $N_0004 $N_0001  8  
R_R4         $N_0003 $N_0004  4  
R_R3         0 $N_0003  12  
R_R6         $N_0005 $N_0004  1  
R_R7         0 $N_0005  3  
V_V1         $N_0002 0 34
