* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
R_R2         0 $N_0001  5k  
V_V2         $N_0002 0 DC 0V AC 10V 
L_L2         0 $N_0001  10mH  
C_C3         0 $N_0001  100n  
