* Schematics Netlist *



V_V2         $N_0001 0 20
R_R3         0 $N_0002  100Meg  
R_R2         0 $N_0002  10k  
R_R1         $N_0001 $N_0002  30k  
