* Schematics Netlist *



C_C1         0 $N_0001  10n  
V_V3         $N_0002 0 20
R_R3         0 $N_0001  100Meg  
R_R1         $N_0002 $N_0001  60k  
R_R2         0 $N_0001  20k  
