* Schematics Netlist *



R_R2         0 $N_0001  10k  
V_V1         $N_0002 0  
+PULSE 0 20 0 1ns 1ns 0.5ms 1ms
C_C4         0 $N_0001  10n  
R_R1         $N_0002 $N_0001  30k  
R_R3         0 $N_0001  100Meg  
