* Schematics Netlist *



R_R1         $N_0002 $N_0001  30k  
V_V4         $N_0002 0 48V
R_R2         0 $N_0001  10k  
R_R3         0 $N_0001  100Meg  
R_R4         0 $N_0001  1k  
