* Schematics Netlist *



R_R2         0 $N_0001  10k  
R_R3         0 $N_0001  100Meg  
R_R1         $N_0002 $N_0001  30k  
V_V2         $N_0002 0 DC 0V AC 10V 
C_C1         0 $N_0001  10n  
